US08314138B2
A mixture of 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid ethyl ester (0.5 g, 1.39 mmol) and NaOH (0.22 g, 5.57 mmol) in tetrahydrofuran (10 mL) and water (5 mL) was heated to reflux for 16 hr. The reaction mixture was cooled to room temperature and neutralized with 5% HCl to pH 6. The precipitate was filtered and dried to provide 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (0.40 g, 87%) as a yellow solid. MS (M+H)+=332; Rt=1.04 min.

reactant | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid ethyl ester | 1.39 mmol, 0.5 g | C(C)OC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCC1=CC=C(C=C1)F)C | C18H18FN3O2S
reactant | NaOH | 5.57 mmol, 0.22 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid | 0.40 g, 87% | FC1=CC=C(C=C1)CCN1N=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C16H14FN3O2S
